US08912173B2
2.43 g 7-Bromo-2,3,4,5-tetrahydro-1H-benzo[d]azepine are dissolved in 4.055 g of formic acid and 3.2 mL of formaldehyde solution was added. The mixture was stirred at 70° C. for 3.5 h and continued overnight at 25° C. The mixture was concentrated, diluted with water and 10 N NaOH to adjust to a basic pH. The mixture was then extracted with tertbutylmethylether (3×) and the organic phase dried (Na2SO4), filtered and concentrated to yield 2.48 g 7-bromo-3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine as oil.

reactant | 7-Bromo-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.43 g | BrC1=CC2=C(CCNCC2)C=C1 | C10H12BrN
reactant | formaldehyde | 3.2 mL | C=O | CH2O
solvent | formic acid | 4.055 g | C(=O)O | CH2O2
product | 7-bromo-3-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.48 g | BrC1=CC2=C(CCN(CC2)C)C=C1 | C11H14BrN
